US07488740B2
9. 4-Methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline
Stir a mixture of 2-chloro-4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline (111 mg), ammonium formate (190 mg), 10% palladium on carbon (30 mg) in methanol (10 mL) at room temperature for 2 hours. Cool, filter through Celite and evaporate to give the title compound.

reactant | 2-chloro-4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline | 111 mg | ClC1=NC2=CC(=CC=C2C(=C1)OC)C1=NC=CC=C1C(F)(F)F | C16H10ClF3N2O
reactant | ammonium formate | 190 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 4-Methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline | COC1=CC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C16H11F3N2O
